US06133258
The reaction procedure of Example 11 was followed except that 900 mg (2.36 mmol) of 2-(4-iodoanilino)-4H-pyrido(3,2-e]-1,3-thiazin-4-one, 23 mg of lithium hydride and 482 mg of propyl iodide were used. The resulting residue was then purified through silica gel column chromatography (eluant: chloroform) to obtain 653 mg of 2-[(4-iodophenyl)imino]-2,3-dihydro-3-propyl-4H-pyrido[3,2-e]-1,3-thiazin-4-one (65%, recrystallized from a mixture of ether and hexane) as a low polarity substance and 40 mg of 2-[N-(4-iodophenyl)-N-propylamino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one (4%, recrystallized from ether) as a high polarity substance.

reactant | 2-(4-iodoanilino)-4H-pyrido(3,2-e]-1,3-thiazin-4-one | 2.36 mmol, 900 mg | IC1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C13H8IN3OS
reactant | lithium hydride | 23 mg | [H-].[Li+]
reactant | propyl iodide | 482 mg | C(CC)I | C3H7I
product | 2-[(4-iodophenyl)imino]-2,3-dihydro-3-propyl-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 653 mg | IC1=CC=C(C=C1)N=C1SC2=C(C(N1CCC)=O)C=CC=N2 | C16H14IN3OS
